US04876046
4-t-octylphenol (250 g, used as received from Rohm and Haas), methanol (250 ml), acetic acid (2.5 ml) and rhodium on carbon catalyst (5.0 g, 5% rhodium, MCB Chemicals) were added to a 3 L glass lined autoclave. The autoclave was charged to 60 psig H2 and heated at 60° C. until hydrogen uptake was complete (about 10 hrs.). The mixture was cooled to room temperature and the catalyst was removed by filtration in a glove bag under a nitrogen atmosphere (CAUTION: pyrophoric catalyst). The solvent was removed on a rotary evaporator and the residue was dissoved in dichloromethane and extracted with 10% sodium carbonate solution (3×250 ml) to remove phenolic contamination, thus avoiding the formation of a yellow impurity in the subsequent oxidation step. The dichloromethane solution was washed with 25% sulfuric acid (2×100 ml) distilled water (1×250 ml), and dried over anhydrous magnesium sulfate, after which the solvent was evaporated to isolate 4-t-octylcyclohexanol as a low melting off-white solid (182 g, 81%).

reactant | 4-t-octylphenol | 250 g | C(C)(C)(CC(C)(C)C)C1=CC=C(C=C1)O | C14H22O
reactant | methanol | 250 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | rhodium on carbon | 5.0 g | [Rh] | Rh
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 4-t-octylcyclohexanol | 182 g, 81% | C(C)(C)(CC(C)(C)C)C1CCC(CC1)O | C14H28O
